### PR TITLE
[Merged by Bors] - feat: prove concavity of `x ↦ x^p` for `p ∈ (0,1)`

### PR DESCRIPTION
**Pull request by dupuisf**
This PR prove the (strict) concavity of `x ↦ x^p` for `p` between 0 and 1.

The main results are in a new file to avoid adding dependencies to `Analysis.Convex.SpecificFunctions.Basic` which is carefully designed to be low in the import hierarchy.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by urkud** [comment]
Why not just use derivatives for `Real`s, then restrict to `NNReal`s?

**Comment by dupuisf** [comment]
The immediate reason is that `concave_on_of_deriv2_nonpos` uses `deriv` rather than `derivWithin` (which should be fixed at some point), and it just looked easier to do it this way because of this. Also this has the side-effect of requiring a lot less imports.

File: Mathlib/Analysis/Convex/SpecificFunctions/Pow.lean [hunk 1]
```diff
@@ -0,0 +1,107 @@
...
+
+Note that convexity for `p > 1` can be found in `Analysis.Convex.SpecificFunctions.Basic`, which
+requires slightly less imports.
+
+## TODO
+
+* Prove convexity for negative powers.
+-/
+
+local macro_rules | `($x ^ $y) => `(HPow.hPow $x $y) -- Porting note: See issue #2220
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/SpecificFunctions/Pow.lean:30]:
```suggestion
local macro_rules | `($x ^ $y) => `(HPow.hPow $x $y) -- Porting note: See issue lean4#2220
```

File: Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean [hunk 2]
```diff
@@ -279,6 +279,26 @@ theorem _root_.Real.toNNReal_rpow_of_nonneg {x y : ℝ} (hx : 0 ≤ x) :
...
+    (strictMono_rpow_of_pos h0).monotone
+
+/-- Bundles `fun x : ℝ≥0 => x ^ y` into an order isomorphism when `y : ℝ` is positive,
+where the inverse is `fun x : ℝ≥0 => x ^ (1 / y)`. -/
+@[simps! apply]
+def orderIsoRpow (y : ℝ) (hy : 0 < y) : ℝ≥0 ≃o ℝ≥0 :=
+  (strictMono_rpow_of_pos hy).orderIsoOfRightInverse (fun x => x ^ y) (fun x => x ^ (1 / y))
+    fun x => by
+    dsimp
+    rw [← rpow_mul, one_div_mul_cancel hy.ne.symm, rpow_one]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Pow/NNReal.lean:296]:
```suggestion
      dsimp
      rw [← rpow_mul, one_div_mul_cancel hy.ne.symm, rpow_one]
```

File: Mathlib/Analysis/Convex/Function.lean [hunk 3]
```diff
@@ -1085,6 +1085,51 @@ end OrderedAddCommMonoid
 
 end LinearOrderedField
 
+section OrderIso
+
+variable [OrderedSemiring 𝕜] [OrderedAddCommMonoid α] [SMul 𝕜 α]
+  [OrderedAddCommMonoid β] [SMul 𝕜 β]
+
+theorem strictConvexOn_orderIso_symm (f : α ≃o β) (hf : StrictConcaveOn 𝕜 univ f) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Function.lean:1093]: Can we put this (and the next three lemmas) in a namespace so that we have dot notation? I think `OrderIso.strictConvexOn` for this, and analogously for the others. Or if you want, `StrictConcaveOn.strictConvexOn`?

**Review by j-loreaux — COMMENTED** [review]
A few minor nitpicks, but otherwise it looks very nice.

File: Mathlib/Analysis/Convex/Function.lean (hunk 3 above)
Comment (dupuisf) [reply Mathlib/Analysis/Convex/Function.lean]: I went with `OrderIso.strictConvexOn_symm` and so on.

**Comment by j-loreaux** [comment]
maintainer merge
